US07705028B2
2c) 6-[2-Chloro-4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid
A solution of methyl 6-[2-chloro-4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate (0.36 g, 0.62 mmol), 6.5 mL of THF, 3.5 mL of methanol and 1.3 mL of 1 N NaOH was stirred for 18 h at rt. The reaction mixture was heated to 65° C. for 2 hours. The solution was allowed to cool to room temperature and the pH was adjusted with 1N HCl. The solution was concentrated and the residue was extracted with ethyl acetate. The organic layer was dried with MgSO4, filtered, and the filtrate was concentrated to give the crude product as oil. The crude material was purified by flash chromatography (silica gel, gradient hexane to hexanes/ethyl acetate, 1:1) to afford the title compound as a white foam (0.15 g, 67%). 1H NMR (DMSO-d6): δ 13.13 (s, 1H), 8.87 (d, J=9 Hz, 1H), 8.19-8.14 (m, 2H), 7.97 (m, 1H), 7.64-7.53 (m, 5H), 7.36 (d, J=9 Hz, 1H), 7.04 (m, 1H), 6.86-6.84 (m, 1H), 4.92 (s, 2H), 3.48 (septet, J=7 Hz, 1H), 1.33 (d, J=7 Hz, 6 H). HRMS C30H22Cl3NO4 m/z 566.0693 (M+H)+Cal; 566.0687 (M+H)+Obs.

reactant | methyl 6-[2-chloro-4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate | 0.62 mmol, 0.36 g | ClC1=C(C=CC(=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C31H24Cl3NO4
reactant | THF | 6.5 mL | C1CCOC1 | C4H8O
reactant | NaOH | 1 N, 1.3 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 3.5 mL | CO | CH4O
product | 6-[2-Chloro-4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid | 0.15 g, 67% | ClC1=C(C=CC(=C1)OCC=1C(=NOC1C(C)C)C1=C(C=CC=C1Cl)Cl)C=1C=C2C=CC=C(C2=CC1)C(=O)O | C30H22Cl3NO4
